US08067447B2
To solution of 1-(4-fluorophenyl)-1H-indazol-5-carboxaldehyde (1.0 g, 4.1 mmol) in 10 mL of THF was added 2.0 M isobutylmagnesium bromide in ether. The reaction mixture was stirred 2 h and then quenched with MeOH. Poured into sat. KH2PO4 and extracted with EtOAc×3. The organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by SiO2 chromatography eluting with 5% EtOAc/DCM. Obtained 650 mg (49% yield) of 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-methylbutan-1-ol. MS found: (M+H)+=299.

reactant | 1-(4-fluorophenyl)-1H-indazol-5-carboxaldehyde | 4.1 mmol, 1.0 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C=O | C14H9FN2O
reactant | isobutylmagnesium bromide | 2.0 M | C(C(C)C)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-methylbutan-1-ol | 650 mg, 49% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CC(C)C)O | C18H19FN2O
